US07781478B2
Preparation of [3-Cyano-1-(4-methoxyphenyl)-1H-indol-6-yl]-carbamic acid propyl ester (Compound 97)
6-Amino-1-(4-methoxyphenyl)-1H-indole-3-carbonitrile (30 mg, 0.12 mmol), is suspended in EtOH (300 μL). Propyl chloroformate (168 μL, 1.5 mmol) is added, and this mixture is stirred at room temperature overnight. The addition of triethylamine (300 μL), followed by another hour of stirring at room temperature, completes the reaction. This reaction mixture is loaded directly onto a silica column, and is eluted with CH2Cl2. Another silica column (3/2, ether/hexanes) is needed to fully purify the product, [3-cyano-1-(4-methoxy-phenyl)-1H-indol-6-yl]-carbamic acid propyl ester (19 mg, 45%), as a white solid.

reactant | 6-Amino-1-(4-methoxyphenyl)-1H-indole-3-carbonitrile | 0.12 mmol, 30 mg | NC1=CC=C2C(=CN(C2=C1)C1=CC=C(C=C1)OC)C#N | C16H13N3O
reactant | Propyl chloroformate | 1.5 mmol, 168 μL | ClC(=O)OCCC | C4H7ClO2
reactant | triethylamine | 300 μL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 300 μL | CCO | C2H6O
product | [3-Cyano-1-(4-methoxyphenyl)-1H-indol-6-yl]-carbamic acid propyl ester | C(CC)OC(NC1=CC=C2C(=CN(C2=C1)C1=CC=C(C=C1)OC)C#N)=O | C20H19N3O3
